US20010044436A1
To a solution of methyl 4-oxopiperidine-3-carboxylate (5.0 g, 25.8 mmol), sodium hydroxide (1.24 g, 31.0 mmol) in 1,4-dioxane and water (60 ml:30 ml) was added di-tert-butyl-dicarbonate (6.76 g, 31.0 mmol) in portions. The resulting solution was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. Organic layer was separated and washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give quantitative yield of methyl 1-[(tert-butyl)oxycarbonyl]-4-oxopiperidine-3-carboxylate as a yellow viscous oil. The crude product gave satisfactory NMR and was used in the next step without purification.

reactant | methyl 4-oxopiperidine-3-carboxylate | 25.8 mmol, 5.0 g | O=C1C(CNCC1)C(=O)OC | C7H11NO3
reactant | sodium hydroxide | 31.0 mmol, 1.24 g | [OH-].[Na+]
reactant | di-tert-butyl-dicarbonate | 31.0 mmol, 6.76 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | methyl 1-[(tert-butyl)oxycarbonyl]-4-oxopiperidine-3-carboxylate | quantitative yield | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OC | C12H19NO5
